US07504508B2
tert-Butyl 4-{acetyl[(2S,4R)-1-(4-methoxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]amino}-1H-indole-1-carboxylate (0.035 g, 0.068 mmol) was stirred in 4 N HCl in dioxane (1 mL) for 24 h and then evaporated to dryness. The residue was dissolved in ethyl acetate, washed with 1N NaOH, water, brine, dried over sodium sulphate and evaporated to dryness to give the crude product (0.023 g). The crude was cleaned by silica gel chromatography to give clean N-1H-indol-4-yl-N-[(2S,4R)-1-(4-methoxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]acetamide (0.008 g, 28%).

reactant | tert-Butyl 4-{acetyl[(2S,4R)-1-(4-methoxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]amino}-1H-indole-1-carboxylate | 0.068 mmol, 0.035 g | C(C)(=O)N(C1=C2C=CN(C2=CC=C1)C(=O)OC(C)(C)C)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)OC)=O)C | C33H35N3O5
solvent | HCl | 4 N | Cl | ClH
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | N-1H-indol-4-yl-N-[(2S,4R)-1-(4-methoxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]acetamide | 0.008 g, 28% | N1C=CC2=C(C=CC=C12)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)OC)=O)C | C28H27N3O3
